US04524146
A solution of 1.63 g of ethyl 4-chloroquinoline-3-carboxylate and 0.80 g of 2-hydrazinothiazole in 22 ml of methanol is stirred for 26 hours at 23°; 22 ml of diethyl ether is added to the resulting slurry, which is then filtered. The precipitate is washed once with methanol-ether (1:1) and once with ether to yield ethyl 4-(2-thiazolylhydrazino)-quinoline-3-carboxylate hydrochloride as a yellow solid which is used directly in the above cyclization.

reactant | ethyl 4-chloroquinoline-3-carboxylate | 1.63 g | ClC1=C(C=NC2=CC=CC=C12)C(=O)OCC | C12H10ClNO2
reactant | 2-hydrazinothiazole | 0.80 g | N(N)C=1SC=CN1 | C3H5N3S
reactant | diethyl ether | 22 ml | C(C)OCC | C4H10O
solvent | methanol | 22 ml | CO | CH4O
product | ethyl 4-(2-thiazolylhydrazino)-quinoline-3-carboxylate hydrochloride | Cl.S1C(=NC=C1)NNC1=C(C=NC2=CC=CC=C12)C(=O)OCC | InChI=1S/C15H14N4O2S.ClH/c1-2-21-14(20)11-9-17-12-6-4-3-5-10(12)13(11)18-19-15-16-7-8-22-15;/h3-9H,2H2,1H3,(H,16,19)(H,17,18);1H
